US09108932B2
Step 1. Preparation of 1-(diphenylmethylene)-2-(4-(perfluoroethoxy)phenyl)-hydrazine
To a dry 2 L round bottomed flask fitted with an overhead mechanical stirrer, nitrogen inlet, thermometer, and reflux condenser were added 1 bromo-4-(perfluoroethoxy)-benzene (100 g, 344 mmol), benzophenone hydrazone (74.2 g, 378 mmol), and (2,2′-bis(diphenylphosphino)-1,1′-binaphthyl) (BINAP, 4.28 g, 6.87 mmol), and the mixture was suspended in anhydrous toluene (500 mL). To exclude oxygen, argon was sparged into the mixture for ten minutes (min) prior to and during the addition of palladium (II) acetate (Pd(OAc)2, 1.54 g, 6.87 mmol) and sodium tert-butoxide (NaOtBu, 49.5 g, 515 mmol), which was added in portions. The argon sparge was halted and the brown mixture was warmed to 100° C. and stirred for 3 h. The reaction was cooled to RT and poured into water (500 mL) and the aqueous mixture was extracted with EtOAc (3×200 mL). The combined organic extracts were washed with water, washed with saturated aqueous NaCI, dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure on a rotary evaporator. The crude product was purified by flash column chromatography using 0-100% (v/v) EtOAc/hexanes as eluent to give the title compound as a red oil (123.3 g, 88%): 1H NMR (400 MHz, CDCI3) δ 5 7.63-7.56 (m, 4H), 7.55 (t, J=1.5 Hz, 1H), 7.51 (d, J=4.7 Hz, 1H), 7.36-7.26 (m, 5H), 7.13-7.04 (m, 4H); 19F NMR (376 MHz, CDCI3) 5-85.94, −87.84; 13C NMR (101 MHz, CDCI3) δ 145.23, 143.46, 141.24, 138.06, 132.53, 129.74, 129.41, 129.03, 128.30, 128.23, 126.57, 122.82, 113.45.

reactant | bromo-4-(perfluoroethoxy)-benzene | 344 mmol, 100 g | BrC1=CC=C(C=C1)OC(C(F)(F)F)(F)F | C8H4BrF5O
reactant | benzophenone hydrazone | 378 mmol, 74.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | oxygen | O=O | O2
reactant | sodium tert-butoxide | 515 mmol, 49.5 g | CC(C)([O-])C.[Na+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 6.87 mmol, 1.54 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(diphenylmethylene)-2-(4-(perfluoroethoxy)phenyl)-hydrazine | 123.3 g, 88% | C1(=CC=CC=C1)C(=NNC1=CC=C(C=C1)OC(C(F)(F)F)(F)F)C1=CC=CC=C1 | C21H15F5N2O
